data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4098,4691,[CH3:9][C:10](=[O:11])[C-:12]([CH3:13])[NH+:14]=[C:15]([CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:12]([C:10]([CH3:9])=[O:11])([CH3:13])[NH:14][C:15]1([CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,22.90080430646677,-10.65303583890588
891,964,[CH3:12][NH:13][C:14](=[O:15])[C:16]#[N+:17][N-:18][C:19](=[O:20])[NH:21][CH3:22].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Cl:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([Cl:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[N:18]([C:19](=[O:20])[NH:21][CH3:22])[N:17]=[C:16]2[C:14]([NH:13][CH3:12])=[O:15],water,298.15,25.016091244374927,-45.76128737809614
1488,1643,[CH3:15][NH:16][C:17](=[O:18])[c-:19]1[c:20](=[O:21])[o:22][c:23]([C:24]#[N:25])[n+:26]1[CH3:27].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[C:19]1([C:17]([NH:16][CH3:15])=[O:18])[C:20](=[O:21])[O:22][C:23]3([C:24]#[N:25])[N:26]1[CH3:27],water,298.15,29.153726680900608,-12.633599319767663
1338,1468,[CH3:16][C-:17]([CH3:18])[N+:19]#[C:20][c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]3[CH:13]([CH:14]1[O:15]2)[C:17]([CH3:16])([CH3:18])[N:19]=[C:20]3[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,12.497147052167367,-63.858133410921496
4736,5409,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15]#[N+:16][C-:17]([C:18](=[O:19])[O:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:17]([C:18](=[O:19])[O:20][CH3:21])([C:22](=[O:23])[O:24][CH3:25])[N:16]=[C:15]2[C:13]([NH:12][CH3:11])=[O:14],water,298.15,21.99296646266798,-19.215265394974004
1388,1527,[CH3:10][O:11][C:12](=[O:13])[C-:14]([C:15]#[N:16])[NH+:17]=[C:18]([C:19]#[N:20])[C:21]#[N:22].[Cl:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[Cl:1][C:2]12[C:3]([Br:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:18]([C:19]#[N:20])([C:21]#[N:22])[NH:17][C:14]2([C:12]([O:11][CH3:10])=[O:13])[C:15]#[N:16],water,298.15,38.96804347839476,-4.538069370552339
706,767,[CH3:13][O:14][C:15](=[O:16])[C:17]([CH3:18])=[N+:19]([CH3:20])[O-:21].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[O:21][N:19]([CH3:20])[C:17]2([C:15]([O:14][CH3:13])=[O:16])[CH3:18],water,298.15,29.95852306899397,-8.395248059207091
1493,1648,[CH3:13][O:14][C:15](=[O:16])[C-:17]([C:18]#[N:19])[O+:20]=[C:21]([CH3:22])[CH3:23].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([Br:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:17]([C:15]([O:14][CH3:13])=[O:16])([C:18]#[N:19])[O:20][C:21]2([CH3:22])[CH3:23],water,298.15,19.39859808042051,-20.703152543419307
290,314,[CH3:8][CH-:9][O+:10]=[C:11]([C:12](=[O:13])[NH:14][CH3:15])[C:16](=[O:17])[O:18][CH3:19].[CH:1]1=[CH:2][CH:3]2[CH:4]=[CH:5][CH:6]1[O:7]2>>[CH:1]1=[CH:2][CH:3]2[CH:4]3[CH:5]([CH:6]1[O:7]2)[CH:9]([CH3:8])[O:10][C:11]3([C:12](=[O:13])[NH:14][CH3:15])[C:16](=[O:17])[O:18][CH3:19],water,298.15,14.686871734018496,-62.2109301674985
3142,3544,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C:9]([CH3:10])=[O+:11][CH-:12][C:13]([CH3:14])=[O:15]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[CH:12]([C:13]([CH3:14])=[O:15])[O:11][C:9]1([C:7]([NH:6][CH3:5])=[O:8])[CH3:10],water,298.15,12.156115632913457,-46.36361186344781
1191,1295,[Br:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2.[CH3:15][C:16]#[N+:17][CH-:18][C:19](=[O:20])[O:21][CH3:22]>>[Br:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[CH:18]([C:19](=[O:20])[O:21][CH3:22])[N:17]=[C:16]3[CH3:15],water,298.15,12.098219362797776,-59.24108082217343
2250,2495,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][C:12]([O:13][CH3:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1.[CH3:23][C:24]([C:25]#[N:26])=[O+:27][C-:28]([C:29]#[N:30])[C:31]#[N:32]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([C:12]([O:13][CH3:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1)[C:28]([C:29]#[N:30])([C:31]#[N:32])[O:27][C:24]2([CH3:23])[C:25]#[N:26],water,298.15,14.84655975376628,-49.99605844846679
